US08314097B2
D. (1-Trityl-1H-imidazol-4-yl)acetic acid (cas # 168632-03-9)
Trityl chloride (51 g, 0.18 mol) is added to a suspension of (1H-imidazol-4-yl)acetic acid hydrochloride (25 g, 0.15 mol) in pyridine (500 mL). This is stirred at room temperature for 16 h, at the end of which MeOH (150 mL) is added. This solution is stirred at room temperature for 1 h. Solvents are evaporated and the residue is taken up in CH2Cl2 and washed with 1 M aqueous citric acid solution (2×) and brine. The organic phase is dried over anhydrous Na2SO4 and evaporated to give a sticky residue which when taken up in diethyl ether and evaporated gave the product as a white solid that is used without further purification. MS (ESI) m/z 368.9 (M+H) (Procedure adapted from J. Org. Chem. 1993, 58, 4606, also prepared in WO2003013526)

reactant | Trityl chloride | 0.18 mol, 51 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | (1H-imidazol-4-yl)acetic acid hydrochloride | 0.15 mol, 25 g | Cl.N1C=NC(=C1)CC(=O)O
reactant | MeOH | 150 mL | CO | CH4O
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | (1-Trityl-1H-imidazol-4-yl)acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CC(=O)O | C24H20N2O2
